US08076329B2
A solution of 4-(4-methoxyphenyl)pyridine (5.68 g) and metachloroperbenzoic acid (70%, 11.34 g) in chloroform is stirred for 2.5 hours at room temperature, concentrated under reduced pressure and purified by chromatography over silica gel (eluent dichloromethane/methanol from 100/0 to 90/10) to give 5.62 g of 4-(4-methoxyphenyl)pyridine 1-oxide used without further purification.

reactant | 4-(4-methoxyphenyl)pyridine | 5.68 g | COC1=CC=C(C=C1)C1=CC=NC=C1 | C12H11NO
reactant | metachloroperbenzoic acid | 11.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-methoxyphenyl)pyridine 1-oxide | 5.62 g | COC1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C12H11NO2
